US07855297B2
By the reaction and treatment in the same manner as in Example 4 using 7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.29 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.37 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.41 g) was obtained. melting point: 110-112° C.

reactant | 7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.29 g | CC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O2
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.37 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methyl-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.41 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)C)C1=CC=C(C=C1)C(C)C | C27H33N3O
